US07696231B2
a) Preparation of tert-butyl 2-(4-hydroxybenzoyl)hydrazinecarboxylate (Precursor of Compound B)
Into a solution of 4-hydroxybenzo hydrazide (5.0 g, 32.86 mmol) in anhydrous THF (200 mL) was added a solution of di-tert-butyl dicarbonate (Aldrich) (7.53 g, 34.51 mmol) in anhydrous THF (10 mL). The resulting mixture was stirred at rt for 6 d. After addition of Et2O (800 ml), a white solid precipitated out. Filtration, washing with Et2O (3×20 mL) and drying under vacuo at 50° C. for 5 hr gave the title compound (5.32 g, 64%) as a white powder in a in 99.9% purity by HPLC (MaxPlot detection between 230 and 400 nm).

reactant | 4-hydroxybenzo hydrazide | 32.86 mmol, 5.0 g | OC1=CC=C(C(=O)NN)C=C1 | C7H8N2O2
reactant | di-tert-butyl dicarbonate | 34.51 mmol, 7.53 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | Et2O | 800 ml | CCOCC | C4H10O
solvent | THF | 200 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | tert-butyl 2-(4-hydroxybenzoyl)hydrazinecarboxylate | 5.32 g, 64% | OC1=CC=C(C(=O)NNC(=O)OC(C)(C)C)C=C1 | C12H16N2O4
